US06986981B2
5.1: Sodium 2-phenoxyethanesulfonate
To a solution of Na2SO3 (12.9 g, 102.3 mmol) in 100 mL of water is added β-chlorophenetole (15.3 g, 97.4 mmol), and the mixture is stirred at 120° C. for 24 h. Cooling the mixture affords white precipitates, which are collected by filtration and dried in vacuo. The product is obtained as a white solid in 87% yield. The structure is confirmed by 1H-NMR spectrum (DMSO-d6). δ [ppm]: 2.88 (t, 2H), 4.18 (t, 2H), 6.88-6.93 (m, 3H), 7.24-7.29 (m, 2H).

reactant | Na2SO3 | 102.3 mmol, 12.9 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | β-chlorophenetole | 97.4 mmol, 15.3 g | ClCCOC1=CC=CC=C1 | C8H9ClO
solvent | water | 100 mL | O | H2O
product | Sodium 2-phenoxyethanesulfonate | 87% yield | O(C1=CC=CC=C1)CCS(=O)(=O)[O-].[Na+] | InChI=1S/C8H10O4S.Na/c9-13(10,11)7-6-12-8-4-2-1-3-5-8;/h1-5H,6-7H2,(H,9,10,11);/q;+1/p-1
